Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
Nsaids / Xarelto
 
Attending: ___.
 
Chief Complaint:
BPH, LUTS
 
Major Surgical or Invasive Procedure:
TRANSURETHRAL RESECTION PROSTATE, BIPOLAR

 
History of Present Illness:
___ year old male with BPH, LUTS presents for TURP. 
 
Past Medical History:
PMHx:
CHF (EF 58%)
HLD
2nd degree AVB s/p pacer placed ___
hx/o A Fib
hx/o SDH
gastritis
hearing loss

PSHx: 
craniotomy
ex lap for duodenal ulcer
s/p appy
s/p bilat cataractecomy

Discharge Summary Past Medical History from ___ ___:  
Hypertension, BPH, atrial fibrillation, idopathic pericardial 
effusion, s/pt appendectomy, s/p pericardiocentesis.  

 
Social History:
___
Family History:
Noncontributory.
 
Physical Exam:
WDWN male
confused at times, pleasant, cooperative
foley in place, pink UOP
no l/e e/p/c/d
 
Pertinent Results:
___ 06:30AM BLOOD WBC-10.2* RBC-3.26* Hgb-9.3* Hct-28.9* 
MCV-89 MCH-28.5 MCHC-32.2 RDW-15.7* RDWSD-50.9* Plt ___
___ 06:30AM BLOOD Glucose-124* UreaN-11 Creat-0.8 Na-136 
K-4.6 Cl-102 HCO3-26 AnGap-13

___ 11:05 am URINE     Site: CYSTOSCOPY      URINE. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      CORYNEBACTERIUM SPECIES (DIPHTHEROIDS).    >10,000 CFU/ML. 

      ENTEROCOCCUS SP..    >10,000 CFU/ML. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ENTEROCOCCUS SP.
                             |   
AMPICILLIN------------   <=2 S
NITROFURANTOIN--------  <=16 S
TETRACYCLINE----------   <=1 S
VANCOMYCIN------------     1 S

 
Brief Hospital Course:
Mr. ___ was admitted to Dr. ___ service 
after bipolar transurethral resection of prostate. No concerning 
intraoperative events occurred; please see dictated operative 
note for details. Mr. ___ received ___ antibiotic 
prophylaxis and his postoperative course was uncomplicated. He 
received intravenous antibiotics and continuous bladder 
irrigation overnight. On POD1 the CBI was discontinued. His 
urine was clear-pink and without clots. He remained a-febrile 
throughout his hospital stay.  At discharge, Mr. ___ had 
pain well controlled with oral pain medications, was tolerating 
regular diet, ambulating and versed on foley care/hygiene.  He 
was given oral pain medications on discharge and explicit 
instructions to follow up in clinic for trial of void. He was 
discharged home with ___ but this service was declined by his 
son. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Finasteride 5 mg PO DAILY 
2. Furosemide 20 mg PO QAM 
3. Metoprolol Succinate XL 25 mg PO BID 
4. Cyanocobalamin 1000 mcg PO DAILY 
5. Tamsulosin 0.4 mg PO QHS 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg ONE capsule(s) by mouth 
twice a day Disp #*60 Capsule Refills:*0 
3.  Senna 17.2 mg PO HS  
4.  Cyanocobalamin 1000 mcg PO DAILY  
5.  Finasteride 5 mg PO DAILY  
6.  Furosemide 20 mg PO QAM  
7.  Metoprolol Succinate XL 25 mg PO DAILY  
8.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Benign prostatic hypertrophy. urinary obstruction, urinary 
retention

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
-You may continue to periodically see small amounts of blood in 
your urine--this is normal and will gradually improve

-Resume your pre-admission/home medications EXCEPT as noted. You 
should ALWAYS call to inform, review and discuss any medication 
changes and your post-operative course with your primary care 
doctor.  

Should you HOLD ASPIRIN? Unless otherwise advised;  If the urine 
is still pink, hold the aspirin until it has been clear/yellow 
for at least three days. 

-If prescribed; complete the full course of antibiotics.

-Colace has been prescribed to avoid post surgical constipation 
and constipation related to narcotic pain medication. 
Discontinue if loose stool or diarrhea develops. Colace is a 
stool softener, NOT a laxative

- AVOID STRAINING for bowel movements as this may stir up 
bleeding.

-Do not eat constipating foods for ___ weeks, drink plenty of 
fluids to keep hydrated

-No vigorous physical activity or sports for 4 weeks or until 
otherwise advised

-Do not lift anything heavier than a phone book (10 pounds) or 
participate in high intensity physical activity for a minimum of 
four weeks or until you are cleared by your Urologist in 
follow-up

-Tylenol should be your first line pain medication, a narcotic 
pain medication has been prescribed for breakthrough pain >4. 

-Max daily Tylenol (acetaminophen) dose is 3 grams from ALL 
sources, note that narcotic pain medication also contains 
Tylenol

-Do not drive or drink alcohol while taking narcotics and do not 
operate dangerous machinery. Also, if the Foley catheter and Leg 
Bag are in place--Do NOT drive (you may be a passenger).

WHEN YOU ARE DISCHARGED WITH A FOLEY CATHETER:
-Please also reference the nursing handout and instructions on 
routine care and hygiene

-Your Foley should be secured to the catheter secure on your 
thigh at ALL times until your follow up with the surgeon.

-DO NOT have anyone else other than your Surgeon or your 
surgeon's representative remove your Foley for any reason.

-Wear Large Foley bag for majority of time; the leg bag is only 
for short-term periods for when leaving the house.

-Do NOT drive if you have a Foley in place (for your safety)
 
Followup Instructions:
___